US07442791B2
6.24 g (13.38 mmol) of trans-(4-{[(2-dimethylamino-ethyl)-methyl-carbamoyl]-methoxy}-cyclohexyl)-methyl-carbamic acid benzyl ester in 34 mL of EtOAc were hydrogenated in the presence of 0.51 g of 10% Pd/C. After removal of the catalyst and evaporation of the solvent, the residue was redissolved in 50 mL of MeOH and hydrogenated in the presence of 0.4 g of 10% Pd/C. The catalyst was removed by filtration over decalite and the filtrate was concentrated. To the residue ether and aqueous HCl were added and the layers were separated. The inorganic one was washed with ether, 1M NaOH was added and the compound was extracted with CH2Cl2, and mixtures of CH2Cl2/THF (1:1). The combined organic layers were washed with brine and dried over Na2SO4. Evaporation of the solvent yielded 2.7 g (75%) of trans-N-(2-dimethylamino-ethyl)-N-methyl-2-(4-methylamino-cyclohexyloxy)-acetamide as colorless oil, MS: 272 (MH+).

reactant | trans-(4-{[(2-dimethylamino-ethyl)-methyl-carbamoyl]-methoxy}-cyclohexyl)-methyl-carbamic acid benzyl ester | 13.38 mmol, 6.24 g | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@H](CC1)OCC(N(C)CCN(C)C)=O)=O | C22H35N3O4
solvent | EtOAc | 34 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.51 g | [Pd] | Pd
product | trans-N-(2-dimethylamino-ethyl)-N-methyl-2-(4-methylamino-cyclohexyloxy)-acetamide | 2.7 g, 75% | CN(CCN(C(CO[C@@H]1CC[C@H](CC1)NC)=O)C)C | C14H29N3O2
